US04837217
Preparation of 2-t-butyl-4-chloro-5-[4-(2-ethoxy-1-ethylethoxy)-benzyloxy]-3(2H)-pyridazinone (Compound No. 664)
Procedures similar to those in Preparation Example 8 were carried out by using 2.0 g of 2-t-butyl-4-chloro-5-hydroxy-3(2H)-pyridazinone and 3.1 g of 4-(2-ethoxy-1-ethylethoxy)-benzyl bromide to obtain 1.0 g of the aimed compound as an oil.

reactant | 2-t-butyl-4-chloro-5-hydroxy-3(2H)-pyridazinone | 2.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)O | C8H11ClN2O2
reactant | 4-(2-ethoxy-1-ethylethoxy)-benzyl bromide | 3.1 g | C(C)OCC(OC1=CC=C(CBr)C=C1)CC | C13H19BrO2
product | 2-t-butyl-4-chloro-5-[4-(2-ethoxy-1-ethylethoxy)-benzyloxy]-3(2H)-pyridazinone | 1.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OCC1=CC=C(C=C1)OC(COCC)CC | C21H29ClN2O4
